US06809090B2
25.1) 3-(2-bromoethoxy)-9H-carbazole
A mixture of 1.83 g (10 mmol) of 4-hydroxycarbazole (J. Chem. Soc. (1955), 3475-3477; J. Med. Chem. (1964) 7, 158-161), 1.08 ml (12,5 mmol) of 1,2-dibromoethane and 2.6 ml (10.5 mmol) of a 4 M aqueous solution of NaOH in 2 ml of water is heated under reflux for 5 hours. After the temperature returns to 20° C., the product is extracted using 2 times 30 ml of CH2Cl2. The organic solutions collected are then successively washed with 20 ml of water and 20 ml of salt water. After drying over MgSO4, filtration and concentration under vacuum, the residue is purified on a silica column (eluent: heptane/AcOEt: 80/20). A beige powder is obtained with a yield of 32%. Melting point: 135-136° C.

reactant | 4-hydroxycarbazole | 10 mmol, 1.83 g | OC1=CC=CC=2NC3=CC=CC=C3C12 | C12H9NO
reactant | 1,2-dibromoethane | 12,5 mmol, 1.08 ml | BrCCBr | C2H4Br2
reactant | NaOH | [OH-].[Na+]
solvent | water | 2 ml | O | H2O
product | 3-(2-bromoethoxy)-9H-carbazole | yield of 32% | BrCCOC=1C=CC=2NC3=CC=CC=C3C2C1 | C14H12BrNO
